US04021564
To a cold Grignard reagent prepared from 27 g (1.1 moles) of magnesium and 240 g (1.07 moles) of 3-bromobenzotrifluoride in 300 ml of dry ether and 150 ml of benzene, was added dropwise over a period of three hours a solution of 100 g (0.96 mole) of 4-cyanopyridine in 300 ml of benzene and 200 ml of ether. After being allowed to stand overnight at room temperature, the mixture was warmed for thirty minutes and then decomposed by adding 700 ml of saturated ammonium chloride solution. The ether-benzene layer was separated and extracted with 10% hydrochloric acid. The acid layer was separated and made basic with 20% sodium hydroxide and extracted with ether. The ether layer was dried over sodium sulphate. The ether solution was concentrated and the residual oil distilled to give 137 g (55%) of 4-(m-trifluoromethylbenzoyl)pyridine. Boiling point 97°-100° C/0.1 mm Hg. nD22 = 1.5380.

reactant | magnesium | 1.1 moles, 27 g | [Mg] | Mg
reactant | 3-bromobenzotrifluoride | 1.07 moles, 240 g | BrC=1C=C(C=CC1)C(F)(F)F | C7H4BrF3
reactant | 4-cyanopyridine | 0.96 mole, 100 g | C(#N)C1=CC=NC=C1 | C6H4N2
reactant | ammonium chloride | 700 ml | [Cl-].[NH4+]
reactant | ether | 300 ml | CCOCC | C4H10O
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 4-(m-trifluoromethylbenzoyl)pyridine | 137 g, 55% | FC(C=1C=C(C(=O)C2=CC=NC=C2)C=CC1)(F)F | C13H8F3NO
